US07622469B2
4-Undecylamino-3,4-dihydro-6-methyl-2-(4′-methoxybenzylamino)-1,3,5-triazine hydrochloride
Under ice-cooling, 100 ml of ethanol, 5 ml (89.2 mmol) of acetaldehyde and 0.4 ml of concentrated hydrochloric acid were added to 4.0 g (8.9 mmol) of N1-(4-methoxybenzyl)-N5-undecyl-biguanide dihydrochloride, and the mixture was refluxed for 24 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (elution with a mixture of chloroform and methanol (9:1.5)), and dissolved in 70% aqueous acetonitrile. The solvent was distilled off under reduced pressure, followed by sufficient drying under reduced pressure to obtain 1.4 g of a colorless resinous solid.

reactant | acetaldehyde | 89.2 mmol, 5 ml | C(C)=O | C2H4O
reactant | hydrochloric acid | 0.4 ml | Cl | ClH
reactant | N1-(4-methoxybenzyl)-N5-undecyl-biguanide dihydrochloride | 8.9 mmol, 4.0 g | Cl.Cl.COC1=CC=C(CNC(=N)NC(=N)NCCCCCCCCCCC)C=C1
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-Undecylamino-3,4-dihydro-6-methyl-2-(4′-methoxybenzylamino)-1,3,5-triazine hydrochloride | 1.4 g | Cl.C(CCCCCCCCCC)NC1NC(=NC(=N1)C)NCC1=CC=C(C=C1)OC | InChI=1S/C23H39N5O.ClH/c1-4-5-6-7-8-9-10-11-12-17-24-22-26-19(2)27-23(28-22)25-18-20-13-15-21(29-3)16-14-20;/h13-16,22,24H,4-12,17-18H2,1-3H3,(H2,25,26,27,28);1H
